Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
iodine
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ with history of
COPD, hypertension, and hyperthyroidism who presents with
worsening shortness of breath and cough with increased sputum
production.  

Patient has experienced acute on chronic SOB/DOE over the past
several days, severe enough to the point that he becomes quickly
out of breath after only a few steps.  He has also experienced
increased cough frequency and sputum production (no hemoptysis)
over this time.  No exertional chest pain, patient does endorse
some mild rib pain while coughing.  He has at times experienced 
a
racing heart beat over the past ___, no dizziness or
lightheadedness.  No fevers/chills.  Last travel to ___ was
___.  No sick contacts.  Patient says that his symptoms are
consistent with prior COPD exacerbations.        

Patient describes a ___ history of COPD, by report originally
diagnosed in ___ with PFTs.  He has used inhalers for ___. 
There have been approximately ___ COPD exacerbations over this
time.    

In the ED, initial VS were: 97.8 88 118/84 18 96% RA 

Labs showed: 
CBC 8.9>13.2/40.6<215
Trop <.01 x1
BNP 25
Chem-7 wnl
Lactate 2.4, 2.7
UA unremarkable
 
Imaging showed:
CXR
FINDINGS:  
Lungs remain hyperinflated, suggesting chronic obstructive
pulmonary disease in this patient with history of extensive
smoking. No focal consolidation is seen. There is no pleural
effusion or pneumothorax. The cardiac and mediastinal 
silhouettes
are stable and unremarkable. 
IMPRESSION:  
No acute cardiopulmonary process. 

Received:
___ 13:30 IH Albuterol 0.083% Neb Soln 1 NEB  
___ 13:30 IH Ipratropium Bromide Neb 1 NEB  
___ 13:30 PO PredniSONE 60 mg 
___ 13:58 IVF  NS  Started 150 mL/hr   
___ 16:06 IV Levofloxacin 750 mg 
___ 16:10 IVF  NS    
___ 20:34 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 20:34 IH Ipratropium Bromide Neb 1 NEB  

Transfer VS were: 98.2  71 116/65 17 97% RA 

On arrival to the floor, patient recounts the history as above
with a phone translator.  He continues to endorse SOB and cough
with sputum production.  No fevers/chills.  No active CP. 
10-point ROS is otherwise NEGATIVE.

 
Past Medical History:
1. Hypertension.
2. Vitamin D deficiency.
3. Colonic adenoma.
4. Elevated A1c.
5. Elevated PSA.
6. COPD.
7. Left kidney stone, 3 mm.
8. 7 mm lung nodule.
9. Hyperthyroidism.
 
Social History:
___
Family History:
Mother with emphysema. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: 97.9 124/70 60 16 98 ra   
GENERAL: AOx3, NAD, intermittently coughing  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, OP clear
with MMM.
NECK: No thyromegaly.  No JVP elevation. 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs.  
LUNGS: Scattered wheezes. 
ABDOMEN: NABS throughout, nondistended, nontender in all
quadrants, no rebound/guarding, no palpable hepatosplenomegaly.  

EXTREMITIES: WWP, no cyanosis, clubbing, or edema.
PULSES: 2+ radial/DP pulses bilaterally.  
NEURO: A&Ox3, CN2-12 intact, moving all 4 extremities with
purpose.  

DISCHARGE PHYSICAL EXAM
=========================
VITALS: 97.9 ___ 60-66 97-98%RA
GENERAL: AOx3, NAD, intermittently coughing  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, OP clear
with MMM.
NECK: No thyromegaly.  No JVP elevation. 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs.  
LUNGS: Decreased breath sounds throughout 
ABDOMEN: NABS throughout, nondistended, nontender in all
quadrants, no rebound/guarding, no palpable hepatosplenomegaly.  

EXTREMITIES: WWP, no cyanosis, clubbing, or edema.
PULSES: 2+ radial/DP pulses bilaterally.  
NEURO: A&Ox3, CN2-12 intact, moving all 4 extremities with
purpose. 

 
Pertinent Results:
ADMISSION LABS
===============
___ 01:15PM BLOOD WBC-8.9 RBC-4.36* Hgb-13.2* Hct-40.6 
MCV-93 MCH-30.3 MCHC-32.5 RDW-12.4 RDWSD-42.4 Plt ___
___ 01:15PM BLOOD Neuts-61.6 ___ Monos-6.4 Eos-4.6 
Baso-0.8 Im ___ AbsNeut-5.50 AbsLymp-2.36 AbsMono-0.57 
AbsEos-0.41 AbsBaso-0.07
___ 01:15PM BLOOD Glucose-159* UreaN-14 Creat-0.9 Na-140 
K-3.9 Cl-100 HCO3-25 AnGap-15
___ 01:15PM BLOOD cTropnT-<0.01 proBNP-25
___ 01:10AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:50AM BLOOD Calcium-9.1 Phos-2.8 Mg-1.9
___ 07:14AM BLOOD ___ pO2-78* pCO2-37 pH-7.40 
calTCO2-24 Base XS-0 Comment-GREEN TOP
___ 02:18PM BLOOD Lactate-2.4*
___ 06:13PM BLOOD Lactate-2.7*
___ 07:14AM BLOOD Lactate-3.9*

DISCHARGE LABS
===============
___ 06:50AM BLOOD WBC-11.7* RBC-4.13* Hgb-12.5* Hct-38.1* 
MCV-92 MCH-30.3 MCHC-32.8 RDW-12.0 RDWSD-40.4 Plt ___
___ 06:50AM BLOOD Glucose-127* UreaN-12 Creat-0.9 Na-142 
K-4.0 Cl-103 HCO3-23 AnGap-16
___ 01:32PM BLOOD Lactate-4.0*

STUDIES
======
Lungs remain hyperinflated, suggesting chronic obstructive 
pulmonary disease in this patient with history of extensive 
smoking.  No focal consolidation is seen.  There is no pleural 
effusion or pneumothorax.  The cardiac and mediastinal 
silhouettes are stable and unremarkable. 
  
IMPRESSION:  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
Patient is a ___ with history of COPD, hypertension, and 
hyperthyroidism who presents with worsening shortness of breath 
and cough with increased sputum production, concerning for COPD 
exacerbation. He was given prednisone, antibiotics, and duonebs 
and his symptoms improved. He was found to have an elevated 
lactate that was felt to be secondary to duoneb treatments as he 
was hemodynamically stable and showed no evidence of end organ 
ischemia.

# COPD Exacerbation:
Cough with sputum production but not hypoxic and without mental 
status changes concerning for significant hypercarbia. Venous 
blood gas with pH 7.4 CO2 37. Evidence of severe emphysema on CT 
chest ___. He was given prednisone 60 on ___ and IV levoquin 
in the ED. He was transitioned to 40mg oral prednisone and 
azithromycin to complete a 5 day course to complete ___. He was 
stable on room air, breathing comfortably, and in no distress on 
the day of discharge. He was given a nicotine patch as an 
inpatient and encouraged to stop smoking. He was educated on the 
correct use of his home inhalers. 

# Elevated lactate:
Lactate was 2.4 on presentation to ED that increased to 3.9 on 
the day of admission in the setting of duoneb treatments, a 
known cause of Type B lactic acidosis. Re-check on ___ showed a 
stable lactate at 4. He remained normotensive without acidosis. 
pH on VBG was normal. There was no concern for sepsis, shock, or 
organ hypoperfusion in the patient and the elevation is lactate 
appears to be completely attributable to receiving nebulizer 
treatments.

# Hypertension: 
Continued home losartan and HCTZ with holding parameters

TRANSITIONAL ISSUES
====================
[] lung nodules, repeat CT chest ___
[] monitor for proper use of symbicort inhaler - twice daily
[] Continue discussion of code status - patient mentioned he 
wished to be DNR/DNI on admission but he was discharged on the 
same day and further discussion of code status was not 
undertaken during the admission
[] prednisone and azithromycin course to complete ___

#CONTACT: ___ (DAUGHTER) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 3 Doses 
take first pill on ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth Daily Disp #*3 
Tablet Refills:*0 
2.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
RX *prednisone 20 mg 2 tablet(s) by mouth Daily Disp #*6 Tablet 
Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
COPD exacerbation

Secondary: 
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with difficulty breathing and 
cough. We believe this is because of a COPD exacerbation. 
- You will need to continue prednisone and azithromycin until 
___. 
- You should take the symbicort inhaler twice daily, even if you 
feel well. 
- You should use the albuterol inhaler when you are feeling 
short of breath

It was a pleasure taking care of you. We wish you the best in 
your health.

Sincerely,
Your ___ team
 
Followup Instructions:
___